US08563771B2
7.64 g of 1-amino-3-benzyloxycyclobutane-1-carboxylic acid ethyl ester was dissolved in 250 mL of a mixed solution of ethanol/triethylamine=9/1. After the solution was cooled in an ice bath for 15 minutes, 8.6 mL (corresponding to 37.5 mmol) of t-butyl dicarbonate was added to the solution and stirred at room temperature overnight. The completion of the reaction was confirmed by TLC analysis using a mobile solvent of hexane/ethyl acetate=1:1 (Rf value of the target reaction product=around 0.6) (confirmed by coloration with UV and molybdic acid). After the completion of the reaction was confirmed, the reaction solution was concentrated under reduced pressure to yield white crystals as a residue. To the residue, 150 mL of cooled ethyl acetate and 150 mL of 0.5 mol/L cooled hydrochloric acid were added, stirred in an ice bath for 5 minutes, and left to stand at room temperature until separation occurred. The organic layer was extracted and washed with 150 mL of water twice, with 150 mL of a saturated aqueous solution of sodium hydrogencarbonate, with 150 mL of water twice and with 150 mL of a saturated saline solution twice in this order, dried with anhydrous sodium sulfate, and concentrated under reduced pressure to yield yellow oily matter. Separately, the water layer was extracted and washed with 150 mL of ethyl acetate twice, with 150 mL of water twice and with 150 mL of saturated saline solution in this order, dried with anhydrous sodium sulfate, and concentrated under reduced pressure to recover a small amount of yellow oily matter. By the series of operations, 8.82 g of light yellow oily matter was obtained. Since it was confirmed with TLC analysis, that there were reagents remaining in the residue, it was briefly purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to yield 4.9282 g (corresponding to 14 mmol) of 1-(N-(t-butoxycarbonyl)amino)-3-benzyloxy-cyclobutane-1-carboxylic acid ethyl ester as white crystals.

reactant | 1-amino-3-benzyloxycyclobutane-1-carboxylic acid ethyl ester | 7.64 g | C(C)OC(=O)C1(CC(C1)OCC1=CC=CC=C1)N | C14H19NO3
reactant | t-butyl dicarbonate | 37.5 mmol, 8.6 mL | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol triethylamine | C(C)O.C(C)N(CC)CC
catalyst | molybdic acid | O[Mo](=O)(=O)O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-(N-(t-butoxycarbonyl)amino)-3-benzyloxy-cyclobutane-1-carboxylic acid ethyl ester | 14 mmol, 4.9282 g | C(C)OC(=O)C1(CC(C1)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C19H27NO5
